US07834009B2
d) N-{3-[1-(4-Fluoro-benzyl)-4-hydroxy-6-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of 3-(4-fluoro-benzylamino)-6-methyl-heptanoic acid ethyl ester (93 mg, 0.315 mmol), (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (105 mg, 0.315 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (73 mg, 0.378 mmol) in anhydrous N,N-dimethyformamide (4 mL) was treated with N-methyl morpholine (0.083 mL, 0.756 mmol). The reaction was stirred under a nitrogen environment at 50° C. for 18 h, quenched with a 6.0 M aqueous hydrochloric acid solution (50 mL), extracted with ethyl acetate (2×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting oil was dissolved in ethanol (5 mL) and treated with sodium ethoxide (470 μL, 21% w/w, 1.26 mmol). The reaction was heated at 60° C. under a nitrogen environment for 18 h. The reaction mixture was allowed to cool to 25° C., quenched with a 1.0 M aqueous hydrochloric acid solution (50 mL), extracted with ethyl acetate (2×50 mL), washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated in vacuo. The crude resin was purified by flash column chromatography (ISCO RediSep column, 0 to 80% ethyl acetate in hexanes) to afford the desired product, N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-6-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (63.6 mg, 36%) as a white powder. 1H NMR (400 MHz, CDCl3) δ: 0.90 (6H, d, J=6.9 Hz), 1.08-1.27 (2H, m), 1.50-1.75 (3H, m), 2.60 (1H, d, J=17.3 Hz), 2.95-3.01 (1H, m), 3.06 (3H, s), 3.37-3.49 (1H, m), 3.98 (1H, d, J=14.9 Hz), 5.30 (1H, d, J=15.0 Hz), 7.03-7.08 (2H, m), 7.20-7.28 (3H, m), 7.46 (1H, bs), 7.65-7.67 (1H, m), 7.71-7.73 (1H, m). LC-MS calculated for C25H29FN4O6S2: 564.2, found 565.5 [M+H+].

reactant | 3-(4-fluoro-benzylamino)-6-methyl-heptanoic acid ethyl ester | 0.315 mmol, 93 mg | C(C)OC(CC(CCC(C)C)NCC1=CC=C(C=C1)F)=O | C17H26FNO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 0.315 mmol, 105 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.378 mmol, 73 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methyl morpholine | 0.756 mmol, 0.083 mL | CN1CCOCC1 | C5H11NO
reactant | sodium ethoxide | 1.26 mmol, 470 μL | [O-]CC.[Na+]
solvent | N,N-dimethyformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-6-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 63.6 mg, 36% | FC1=CC=C(CN2C(C(=C(CC2CCC(C)C)O)C=2NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C25H29FN4O6S2
